US06784192B2
1-[(4-Oxo-1,4-dihydro-3-pyridinyl)methyl]-4-[2-[2,3-(methylenedioxy)phenyl]ethyl]piperidine
259 mg of 1-[(4-methoxy-3-pyridinyl)methyl]-4-[2-(2-methylphenyl)ethyl]piperidine was dissolved in 5 ml of ethanol. To the mixture was added 1.91 ml of a hydrogen chloride-ethyl acetate solution, followed by heating under reflux overnight. The solvent was evaporated, and to the residue was added a 2N hydrochloric acid (15 ml), followed by heating under reflux for further 7 hours. A sodium carbonate aqueous solution was added to the reaction solution, and the mixture was extracted with chloroform. The extract was dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The crude product was purified by NH-silica gel column chromatography (n-hexane:ethyl acetate=2:1), to give 42 mg of the title compound as a white powder.

reactant | 1-[(4-methoxy-3-pyridinyl)methyl]-4-[2-(2-methylphenyl)ethyl]piperidine | 259 mg | COC1=C(C=NC=C1)CN1CCC(CC1)CCC1=C(C=CC=C1)C | C21H28N2O
reactant | hydrogen chloride-ethyl acetate | 1.91 ml | C(C)(=O)OCC.Cl
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-[(4-Oxo-1,4-dihydro-3-pyridinyl)methyl]-4-[2-[2,3-(methylenedioxy)phenyl]ethyl]piperidine | 42 mg | O=C1C(=CNC=C1)CN1CCC(CC1)CCC1=C2C(=CC=C1)OCO2 | C20H24N2O3
